US07696223B2
b) 3,3-Dimethyl-1-nitro-but-1-ene
To a cold mixture of 3,3-dimethyl-1-nitro-butan-2-ol (7.35 g, 50.0 mmol), and triethylamine (17.4 mL, 125 mmol) in dichloromethane (70 mL) at −78° C. was added MsCl (4.64 mL, 60 mmol) dropwise; the mixture was stirred for 2 hours at −78° C. to room temperature. Then solvents were removed, the residue was partitioned between EtOAc and diluted HCl aqueous solution, the EtOAc phase was washed with saturated NaCl aqueous solution, then dried over anhydrous sodium sulfate, filtered, concentrated, to give an oil, the title compound (6.2 g); The title product, 1H NMR (200 MHz, CDCl3): δ (ppm)=7.25 (d, 1H, J=13.4 Hz), 6.88 (d, 1H, J=13.4 Hz), 1.16 (s, 9H).

reactant | 3,3-dimethyl-1-nitro-butan-2-ol | 50.0 mmol, 7.35 g | CC(C(C[N+](=O)[O-])O)(C)C | C6H13NO3
reactant | triethylamine | 125 mmol, 17.4 mL | C(C)N(CC)CC | C6H15N
reactant | MsCl | 60 mmol, 4.64 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | 3,3-Dimethyl-1-nitro-but-1-ene | 6.2 g | CC(C=C[N+](=O)[O-])(C)C | C6H11NO2
